US04851387
199 mg of ethyl 3-[(4S,5S)-3-benzyloxycarbonyl-2,2-dimethyl-4-isobutyloxazolidin-5-yl]-2-isopropyl-2-propenoate was dissolved in 1.16 ml of an ethanol/water (10/1) solution of 2N potassium hydroxide, and the mixture was stirred overnight at room temperature. The mixture was cooled to 0° C. and adjusted to pH 2 with 1N hydrochloric acid, and then 12 ml of water was added thereto. The mixture was extracted 3 times with 10 ml of ethyl acetate. The organic solvent layer was washed sequentially with water and a saturated sodium chloride aqueous solution and then dried over anhydrous sodium sulfate. Then, the solvent was distilled off under reduced pressure to obtain 3-[(4S,5S)-3-benzyloxycarbonyl-2,2-dimethyl-4-isobutyloxazolidin-5-yl]-2-isopropyl-2-propenoic acid as a colorless oily substance.

reactant | ethyl 3-[(4S,5S)-3-benzyloxycarbonyl-2,2-dimethyl-4-isobutyloxazolidin-5-yl]-2-isopropyl-2-propenoate | 199 mg | C(C1=CC=CC=C1)OC(=O)N1C(O[C@H]([C@@H]1CC(C)C)C=C(C(=O)OCC)C(C)C)(C)C | C25H37NO5
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | water | 12 ml | O | H2O
solvent | hexane ethyl acetate | 1.16 ml | CCCCCC.C(C)(=O)OCC
solvent | potassium hydroxide | 2N | [OH-].[K+]
product | 3-[(4S,5S)-3-benzyloxycarbonyl-2,2-dimethyl-4-isobutyloxazolidin-5-yl]-2-isopropyl-2-propenoic acid | C(C1=CC=CC=C1)OC(=O)N1C(O[C@H]([C@@H]1CC(C)C)C=C(C(=O)O)C(C)C)(C)C | C23H33NO5
